US04188380
Dioctyl Ethyl Methyl Phosphonium Chloride
Into 14.4 g (0.05 m) of dioctyl ethyl phosphine, placed in the bubbler reactor described in Example 2, methyl chloride was introduced at 130° C. for 4 hours. The degree of weight gain observed corresponded to a quantitative formation of the desired product; a colorless, waxy solid at room temperature. In the nmr spectrum of this product, the α-meythyl doublet appears at 1.93 ppm (JP-C 14 cps).

reactant | dioctyl ethyl phosphine | 14.4 g | C(CCCCCCC)P(CC)CCCCCCCC | C18H39P
reactant | methyl chloride | CCl | CH3Cl
product | Dioctyl Ethyl Methyl Phosphonium Chloride | [Cl-].C(CCCCCCC)[P+](C)(CC)CCCCCCCC | InChI=1S/C19H42P.ClH/c1-5-8-10-12-14-16-18-20(4,7-3)19-17-15-13-11-9-6-2;/h5-19H2,1-4H3;1H/q+1;/p-1
